US07468370B2
{1-[8-(3-Cyano-phenyl)-[1,7]naphthyridin-6-yl]-piperidin-4-yl}-acetic acid
{1-[8-(3-Cyano-phenyl)-[1,7]naphthyridin-6-yl]-piperidin-4-yl}-acetic acid ethyl ester (250 mg, 0.62 mmol) is dissolved in ethanol (5 ml) with 2M KOH (aq., 0.95 ml, 1.86 mmol) and the mixture stirred at 45° C. for 0.5 hours. After cooling, the pH of the mixture is adjusted to pH 3 by the dropwise addition of concentrated HCl. After stirring for 0.5 hours, the resultant solid is filtered and washed with water to yield the desired product. M.p. 178-180° C.

reactant | {1-[8-(3-Cyano-phenyl)-[1,7]naphthyridin-6-yl]-piperidin-4-yl}-acetic acid ethyl ester | 0.62 mmol, 250 mg | C(C)OC(CC1CCN(CC1)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)C#N)=O | C24H24N4O2
reactant | KOH | 1.86 mmol, 2M, 0.95 ml | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | {1-[8-(3-Cyano-phenyl)-[1,7]naphthyridin-6-yl]-piperidin-4-yl}-acetic acid | C(#N)C=1C=C(C=CC1)C=1N=C(C=C2C=CC=NC12)N1CCC(CC1)CC(=O)O | C22H20N4O2
